US07973047B2
(4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylpyridin-4-yl)methyl)oxazolidine-3-carboxylate
The title compound was synthesized in manner analogous to that described in Example 472, using (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-(pyridin-4-ylmethyl)oxazolidine-3-carboxylate in the presence of TBSCl and imidazole, and was used without further purification.

reactant | (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-(pyridin-4-ylmethyl)oxazolidine-3-carboxylate | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC=NC=C1 | C17H26N2O4
reactant | TBSCl | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylpyridin-4-yl)methyl)oxazolidine-3-carboxylate | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC(=NC=C1)C | C18H28N2O4
